### PR TITLE
missing bigop lemmas

### PR DESCRIPTION
**Pull request by affeldt-aist**
Co-authored-by: Cohen Cyril <cyril.cohen@inria.fr>

##### Motivation for this change

missing lemmas discovered while developing mathcomp-analysis

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/ssrnum.v [hunk 1]
```diff
@@ -2016,6 +2016,14 @@ Lemma ler_sum I (r : seq I) (P : pred I) (F G : I -> R) :
   \sum_(i <- r | P i) F i <= \sum_(i <- r | P i) G i.
 Proof. exact: (big_ind2 _ (lexx _) ler_add). Qed.
 
+Lemma ler_sum_nat  (m n : nat) (F G : nat -> R) :
+  (forall i, (m <= i < n)%N -> (F i <= G i)%O) ->
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:2020]: In ssrnum, `%O` can and must be omitted (unless I am mistaken, but if they can, they must).

**Comment by CohenCyril** [comment]
@thery I cannot review this one as I am a coauthor. Can you review it?

**Comment by thery** [comment]
> @thery I cannot review this one as I am a coauthor. Can you review it?

no problem

File: mathcomp/algebra/ssrnum.v [hunk 2]
```diff
@@ -2016,6 +2016,14 @@ Lemma ler_sum I (r : seq I) (P : pred I) (F G : I -> R) :
   \sum_(i <- r | P i) F i <= \sum_(i <- r | P i) G i.
 Proof. exact: (big_ind2 _ (lexx _) ler_add). Qed.
 
+Lemma ler_sum_nat  (m n : nat) (F G : nat -> R) :
+  (forall i, (m <= i < n)%N -> F i <= G i) ->
+  \sum_(m <= i < n) F i <= \sum_(m <= i < n) G i.
+Proof.
+move=> leFG; rewrite big_nat_cond [in X in _ <= X]big_nat_cond.
+by rewrite ler_sum// => i; rewrite andbT => /leFG.
+Qed.
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:2025]: Maybe this is simpler
```
Lemma ler_sum_nat  (m n : nat) (F G : nat -> R) :
  (forall i, (m <= i < n)%N -> F i <= G i) ->
  \sum_(m <= i < n) F i <= \sum_(m <= i < n) G i.
Proof.
move=> leFG.
by rewrite ![\sum_(_ <= _ < _) _]big_nat_cond ler_sum // => i /andP[] /leFG.
Qed.
```

File: mathcomp/algebra/ssralg.v [hunk 3]
```diff
@@ -856,6 +856,10 @@ Lemma sumr_const (I : finType) (A : pred I) (x : V) :
   \sum_(i in A) x = x *+ #|A|.
 Proof. by rewrite big_const -iteropE. Qed.
 
+Lemma sumr_const_nat (m n : nat) (x : V) :
+   \sum_(n <= i < m) x = x *+ (m - n).
+Proof. by rewrite big_const_nat; elim: (m - n)%N => //= k ->; rewrite mulrS. Qed.
```
Comment (thery) [inline mathcomp/algebra/ssralg.v:861]: Maybe in two moves (there is a `iter_addn_0` for `nat`)

```
Lemma iter_addr_0 n (m : V) : iter n (+%R m) 0 = m *+ n.
Proof. by elim: n => //= n ->; rewrite mulrS. Qed.

Lemma sumr_const_nat (m n : nat) (x : V) :
   \sum_(n <= i < m) x = x *+ (m - n).
Proof. by rewrite big_const_nat iter_addr_0. Qed.
```

**Comment by thery** [comment]
:+1: if you clean the history, I merge

**Comment by CohenCyril** [comment]
>  if you clean the history, I merge

You can "Squash and merge", to clear the history using github's functionality
